US05880121
3-(1-Homopiperazinyl)-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole
A stirred mixture of 3-chloro-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole (2.66 g, 11.32 mmol), homopiperazine (11.40 g, 113.2 mol) and K2CO3 (3.13 g, 22.68 mmol) in 10.0 ml of N-methylpyrrolidinone under N2 was lowered into an oil bath preheated to 150° C. The mixture was heated while stirring under N2 for 20 minutes. At that time, TLC (CH2Cl2) showed no starting material remained. The mixture was removed from the heating bath, allowed to cool to room temperature and diluted with H2O, which caused a solid to precipitate. The crude solid was dried, recrystallized from Et2O and dried in vacuo (0.1 mm) at 85° C., to provide pure product, mp of 106°-109° C., homogeneous by TLC [silica, 1:1 CH3OH:CH2Cl2, Rf=0.18]. The IR (CHCl3), NMR (CDCl3) and Mass Spectrum (M+ =299, EI, 70 eV) were consistent with the structure. The yield was 1.7948 g (6.00 mmol, 53.03%).

reactant | 3-chloro-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole | 11.32 mmol, 2.66 g | ClC1=C2C(=NO1)C1=CC(=CC=C1CC2)OC | C12H10ClNO2
reactant | homopiperazine | 113.2 mol, 11.40 g | N1CCNCCC1 | C5H12N2
reactant | K2CO3 | 22.68 mmol, 3.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N-methylpyrrolidinone | 10.0 ml | CN1C(CCC1)=O | C5H9NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH3OH | CO | CH4O
product | 3-(1-Homopiperazinyl)-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole | N1(CCNCCC1)C1=C2C(=NO1)C1=CC(=CC=C1CC2)OC | C17H21N3O2
